US07247626B2
To a solution of (2E)-3-(dimethylamino)-1-[2-(4-fluorophenyl)-7-(methylsulfanyl)pyrazolo[1,5-c]pyrimidin-3-yl]prop-2-en-1-one (660 mg, 1.85 mmol) and N-cyclopentylguanidine hydrochloride (600 mg, 3.71 mmol) in N,N-dimethylformamide (10 mL) was added potassium carbonate (760 mg, 5.55 mmol). The reaction mixture was heated to 100° C. for 1 hour and then to 115° C. for 4 hours. The reaction was allowed to cool to room temperature and diluted with water. The mixture was extracted with ethyl acetate, washed with brine, dried over magnesium sulfate, filtered and concentrated. The residue was purified using silica gel chromatography eluting with 50% acetone in dichloromethane to yield N-cyclopentyl-4-[2-(4-fluorophenyl)-7-(methylsulfanyl)pyrazolo[1,5-c]pyrimidin-3-yl]pyrimidin-2-amine (210 mg, 32%). 1H NMR (CDCl3): δ 8.05(d,1H), 7.94 (m, 2H), 7.64 (dd, 2H), 7.13 (t, 2H), 6.29 (d, 1H), 5.21 (bs, 1H), 4.31 (m, 1H), 2.72 (s, 3H), 2.06 (m, 2H), 1.49–1.82 (m, 6H). MS m/z 421 (M+1).

reactant | (2E)-3-(dimethylamino)-1-[2-(4-fluorophenyl)-7-(methylsulfanyl)pyrazolo[1,5-c]pyrimidin-3-yl]prop-2-en-1-one | 1.85 mmol, 660 mg | CN(/C=C/C(=O)C=1C(=NN2C(=NC=CC21)SC)C2=CC=C(C=C2)F)C | C18H17FN4OS
reactant | N-cyclopentylguanidine hydrochloride | 3.71 mmol, 600 mg | Cl.C1(CCCC1)NC(=N)N
reactant | potassium carbonate | 5.55 mmol, 760 mg | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | N-cyclopentyl-4-[2-(4-fluorophenyl)-7-(methylsulfanyl)pyrazolo[1,5-c]pyrimidin-3-yl]pyrimidin-2-amine | 210 mg, 32% | C1(CCCC1)NC1=NC=CC(=N1)C=1C(=NN2C(=NC=CC21)SC)C2=CC=C(C=C2)F | C22H21FN6S
